US05114927
4-Benzyloxycarbonylamino-5-cyclohexyl-2,2-difluoro-3-hydroxypentanoic acid, ethyl ester
The title compound was prepared in 37% yield from N-benzyloxycarbonyl-3-cyclohexylalaninal, ethyl bromodifluoroacetate and zinc by the procedure described in Example 1.

reactant | N-benzyloxycarbonyl-3-cyclohexylalaninal | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1CCCCC1)C=O | C17H23NO3
reactant | ethyl bromodifluoroacetate | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
catalyst | zinc | [Zn] | Zn
product | 4-Benzyloxycarbonylamino-5-cyclohexyl-2,2-difluoro-3-hydroxypentanoic acid, ethyl ester | 37% yield | C(C1=CC=CC=C1)OC(=O)NC(C(C(C(=O)OCC)(F)F)O)CC1CCCCC1 | C21H29F2NO5
